US07301022B2
N-(4-(6-(2-(2-(1-Isobutylpiperidin-2-yl)ethyl)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
A solution of N-(4-(6-(2-(2-(1-isobutylpiperidin-2-yl)ethynyl)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide hydrochloride, Example 15(c), (221 mg, 0.37 mmol) in dioxane (5 mL) was hydrogenated under the conditions of Example 12(a) to provide the title compound as a tan solid. MS (ESI, pos. ion) m/z: 598 (M+1).

reactant | N-(4-(6-(2-(2-(1-isobutylpiperidin-2-yl)ethynyl)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide hydrochloride | Cl.C(C(C)C)N1C(CCCC1)C#CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(4-(6-(2-(2-(1-Isobutylpiperidin-2-yl)ethyl)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | C(C(C)C)N1C(CCCC1)CCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C31H34F3N5O2S
